US04096256
A mixture of 6.5 g. (0.02 mol.) of 1-(2-acetamidoethyl)-5-(2,4-dinitrophenylthio)tetrazole, 100 ml. of 12 N hydrochloric acid and 100 ml. of 95% ethanol was refluxed for 4.5 hours. The mixture was evaporated to dryness to give a gummy residue which crystallized upon addition of ethanol to give 1-(2-aminoethyl)-5-(2,4-dinitrophenylthio)tetrazole hydrochloride, m.p. 217√-219° (d).

reactant | 1-(2-acetamidoethyl)-5-(2,4-dinitrophenylthio)tetrazole | 0.02 mol | C(C)(=O)NCCN1N=NN=C1SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H11N7O5S
reactant | hydrochloric acid | 12 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-aminoethyl)-5-(2,4-dinitrophenylthio)tetrazole hydrochloride | Cl.NCCN1N=NN=C1SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | InChI=1S/C9H9N7O4S.ClH/c10-3-4-14-9(11-12-13-14)21-8-2-1-6(15(17)18)5-7(8)16(19)20;/h1-2,5H,3-4,10H2;1H
